US06667316B1
A mixture of 2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-aminoisoindoline-1,3-dione (2.0 g, 4.8 mmol) and chloroacetyl chloride (2 mL, 25 mmol) was heated to reflux for 30 minutes. The solvent was removed in vacuo to give a solid. The solid was stirred in ether (40 mL) for 1 hour to give a suspension. The suspension was filtered and washed with ether to give 2-chloro-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-1,3-dioxoisoindolin-4-yl}acetamide as a white solid (2.28 g, 96% yield); mp, 166-168° C.; 1H NMR (CDCl3) δ1.48 (t, J=6.9 Hz, 3H, CH3), 2.88 (s, 3H, CH3), 3.75 (dd, J=4.4, 14.3 Hz, 1H, CHH), 3.86 (s, 3H, CH3), 4.13 (q, J=7.0 Hz, 2H, CH2), 4.24 (s, 2H, CH2), 4.57 (dd, J=10.5, 14.3 Hz, 1H, CHH), 5.89 (dd, J=4.5, 10.3 Hz, 1H, NCH), 6.84-6.88 (m, 1H, Ar), 7.11-7.15 (m, 2H, Ar), 7.57 (d, J=7.2 Hz, 1H, Ar), 7.70 (t, J=7.6 Hz, 1H, Ar), 8.77 (d, J=8.3 Hz, 1H, Ar), 10.53 (s, 1H, NH); 13C NMR (CDCl3) δ14.60, 41.52, 42.67, 48.72, 54.51, 55.88, 64.48, 111.46, 112.44, 116.37, 119.06, 120.38, 124.74, 129.17, 131.22, 136.04, 136.29, 148.58, 149.75, 165.21, 167.25, 169.01; Anal Calcd for C22H23N2O7ClS+0.1 H2O: C, 53.19; H, 4.71; N, 5.50; H2O, 0.36. Found: C, 52.89; H, 4.52; N, 5.50; H2O, 0.17.

reactant | 2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-4-aminoisoindoline-1,3-dione | 4.8 mmol, 2.0 g | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)N)=O | C20H22N2O6S
reactant | chloroacetyl chloride | 25 mmol, 2 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | ether | 40 mL | CCOCC | C4H10O
product | 2-chloro-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-1,3-dioxoisoindolin-4-yl}acetamide | 2.28 g, 96% yield | ClCC(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O | C22H23ClN2O7S
